US06462198B1
(9H-Xanthene-9-carbonyl)-carbamic acid butyl ester
The title compound, white solid, m.p.=180-183° C., MS: m/e=325.4 (M+H+) was prepared in accordance with the general method of example 6 from 9H-xanthene-9-carbonyl chloride and carbamic acid butyl ester.

reactant | 9H-xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
reactant | carbamic acid butyl ester | C(CCC)OC(N)=O | C5H11NO2
product | (9H-Xanthene-9-carbonyl)-carbamic acid butyl ester | C(CCC)OC(NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12)=O | C19H19NO4
